US04775753
Diethylamine (480 cc) is added to a solution of (S)-2-chloropropionyl chloride (175.2 g) in chloroform (900 cc), which is maintained at 0° C., in the course of 1 hour. Distilled water (400 cc) and dichloromethane (300 cc) are added to the reaction mixture. The organic phase is decanted and then washed with an aqueous 2N hydrochloric acid solution (300 cc) and then with distilled water (400 cc). The organic phase is dried over sodium sulphate, filtered and then concentrated to dryness under reduced pressure (2.7 kPa) at a temperature in the vicinity of 30° C. The residue obtained is distilled under reduced pressure (17 Pa). (S)-N,N-Diethyl-2-chloropropionamide (161.9 g) in the form of a colourless oil [b.p.17Pa =83°-85° C.; [α]D20 =+39.7°(c=10.4 ; CHCl3)] is thereby obtained.

reactant | Diethylamine | 480 cc | C(C)NCC | C4H11N
reactant | (S)-2-chloropropionyl chloride | 175.2 g | Cl[C@H](C(=O)Cl)C | C3H4Cl2O
reactant | water | 400 cc | O | H2O
reactant | dichloromethane | 300 cc | ClCCl | CH2Cl2
solvent | chloroform | 900 cc | C(Cl)(Cl)Cl | CHCl3
product | (S)-N,N-Diethyl-2-chloropropionamide | 161.9 g | C(C)N(C([C@H](C)Cl)=O)CC | C7H14ClNO
